US06110962
[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11-yl)-phenoxy]-acetic acid
1.0 N Aqueous potassium hydroxide (2.66 mL, 2.66 mmol) was added to a stirred suspension of [2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl )-phenoxy]-acetic acid, methyl ester (1.51 g, 2.37 mmol) in THF (13 mL) and methanol (4 mL). Dissolution occurred. After 2.5 h at ambient temperature, the reaction mixture was diluted with water and extracted with ether (100 mL). The aqueous phase was acidified with 10% aqueous HCl and filtered. The solid was washed with water and triturated with pet. ether. The solid was dried in vacuo at 70° C. to provide the title compound as a white solid (1.34 g, 91%): mp 259-261° C.: NMR (DMSO-d6): δ8.29 (dd, J=8, 1 Hz, 1 H), 8.06 (dd, J=8, 1 Hz, 1 H), 7.82 (s, 2 H), 7.79 (ddd, J=8, 6, 2 Hz, 1 H), 7.61 (m, 2 H), 7.52 (ddd, J=8, 7, 1 Hz, 1 H), 7.32 (ddd, J=8, 7, 1 Hz, 1 H), 6.73 (dd, J=8, 1 Hz, 1 H), 4.78 (s, 2 H); MS (EI): [M+], 3 bronine isotope pattern, 618 (30%), 620 (90%) 622 (100%) 624 (50%); Anal. Calc. for C24H13Br3O3S: C, 46.41, H, 2.11, N, 0.00. Found: C, 46.38, H, 1.99, N, 0.01.

reactant | potassium hydroxide | 2.66 mmol, 1.0 N, 2.66 mL | [OH-].[K+]
reactant | [2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl )-phenoxy]-acetic acid, methyl ester | 2.37 mmol, 1.51 g | BrC1=C(OCC(=O)OC)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C25H15Br3O3S
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | water | O | H2O
product | [2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11-yl)-phenoxy]-acetic acid | 1.34 g, 91% | BrC1=C(OCC(=O)O)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C24H13Br3O3S
